// Generated for: spectre
// Generated on: Apr 27 10:30:31 2022
// Design library name: Project_Lib1_sim
// Design cell name: dff_ext_reset_sim
// Design view name: schematic
simulator lang=spectre
global 0
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/l130e-rf-v171-control.scs"
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_LL12_V141.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HG_LVT33_BPW_V131.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HG_RVT33_BPW_V131.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HS12_BPW_V241.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HS_LVT12_BPW_V031.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_BJT_V141.lib.scs" section=typ_BIP
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HG_LVT33_V131.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HG_NVT33_v031.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HG_RVT33_V131.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HS12_V241.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HS_LVT12_V031.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HS_NVT12_V041.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/MML130E_20f_MIMCAP_V011.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/MML130E_15f_MIMCAP_V021.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/MML130E_MIMCAP_V121.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/mm130e_mom_v031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/MML130E_RES_V152.lib.scs" section=res_typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_SP12_V141.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_DIODE_V151.mdl.scs"
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_cr20k_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_nwcr20k_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_nwsqsk_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_nwsy20kct_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_nwsy20k_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_sqsk_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_sy20kct_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_sy20k_rfvil_V031.lib.scs" section=typ

// Library name: Project_Lib1
// Cell name: dflipflop_no_reset
// View name: schematic
subckt dflipflop_no_reset CLK D GND NOT_Q Q VDD
    NM6 (NOT_Q CLK net38 GND) n_12_hsl130e w=2u l=130.0n as=6.8e-13 \
        ad=6.8e-13 ps=4.68u pd=4.68u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
    NM5 (net38 net25 GND GND) n_12_hsl130e w=2u l=130.0n as=6.8e-13 \
        ad=6.8e-13 ps=4.68u pd=4.68u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
    NM4 (net25 net18 net39 GND) n_12_hsl130e w=2u l=130.0n as=6.8e-13 \
        ad=6.8e-13 ps=4.68u pd=4.68u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
    NM3 (net39 CLK GND GND) n_12_hsl130e w=2u l=130.0n as=6.8e-13 \
        ad=6.8e-13 ps=4.68u pd=4.68u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
    NM1 (Q NOT_Q GND GND) n_12_hsl130e w=1u l=130.0n as=3.4e-13 ad=3.4e-13 \
        ps=2.68u pd=2.68u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
    NM0 (net18 D GND GND) n_12_hsl130e w=1u l=130.0n as=3.4e-13 ad=3.4e-13 \
        ps=2.68u pd=2.68u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
    PM5 (net40 D VDD VDD) p_12_hsl130e w=4u l=130.0n as=1.36e-12 \
        ad=1.36e-12 ps=8.68u pd=8.68u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
    PM4 (net18 CLK net40 GND) p_12_hsl130e w=4u l=130.0n as=1.36e-12 \
        ad=1.36e-12 ps=8.68u pd=8.68u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
    PM3 (Q NOT_Q VDD VDD) p_12_hsl130e w=2u l=130.0n as=6.8e-13 ad=6.8e-13 \
        ps=4.68u pd=4.68u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
    PM1 (NOT_Q net25 VDD VDD) p_12_hsl130e w=2u l=130.0n as=6.8e-13 \
        ad=6.8e-13 ps=4.68u pd=4.68u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
    PM0 (net25 CLK VDD VDD) p_12_hsl130e w=2u l=130.0n as=6.8e-13 \
        ad=6.8e-13 ps=4.68u pd=4.68u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
ends dflipflop_no_reset
// End of subcircuit definition.

// Library name: Project_Lib1
// Cell name: reset_pullup
// View name: schematic
subckt reset_pullup I NOT_R VDD
    PM3 (I NOT_R VDD VDD) p_12_hsl130e w=2u l=130.0n as=6.8e-13 ad=6.8e-13 \
        ps=4.68u pd=4.68u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
    PM2 (I NOT_R VDD VDD) p_12_hsl130e w=2u l=130.0n as=6.8e-13 ad=6.8e-13 \
        ps=4.68u pd=4.68u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
    PM1 (I NOT_R VDD VDD) p_12_hsl130e w=2u l=130.0n as=6.8e-13 ad=6.8e-13 \
        ps=4.68u pd=4.68u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
    PM0 (I NOT_R VDD VDD) p_12_hsl130e w=2u l=130.0n as=6.8e-13 ad=6.8e-13 \
        ps=4.68u pd=4.68u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
ends reset_pullup
// End of subcircuit definition.

// Library name: Project_Lib1_sim
// Cell name: dff_ext_reset_sim
// View name: schematic
I0 (net7 net5 0 net4 net6 net2) dflipflop_no_reset
I1 (net4 net1 net2) reset_pullup
V0 (net2 0) vsource type=dc
V3 (net1 0) vsource type=pulse val0=1.2V val1=0 period=32n delay=20n \
        rise=10p fall=10p width=20n
V2 (net5 0) vsource type=pulse val0=0 val1=1.2 period=16n delay=2n \
        rise=10p fall=10p width=8n
V1 (net7 0) vsource type=pulse val0=0 val1=1.2 period=8n delay=2n rise=10p \
        fall=10p width=4n
C1 (net6 0) capacitor c=100.0f
C0 (net4 0) capacitor c=100.0f
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=32n errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
